US09290451B2
(S)-6-(3-Chlorophenyl)-N-(3,3-dimethyl-1-(methylamino)-1-oxobutan-2-yl)picolinamide
The title compound was synthesized in analogy to Example 1, using 6-(3-chlorophenyl)-2-pyridinecarboxylic acid (CAN 863704-38-5) and (2S)-2-amino-N,3,3-trimethyl-butanamide (CAN 89226-12-0) as starting materials, MS (EI): m/e=360.0 [M+H]+.

reactant | 6-(3-chlorophenyl)-2-pyridinecarboxylic acid | ClC=1C=C(C=CC1)C1=CC=CC(=N1)C(=O)O | C12H8ClNO2
reactant | (2S)-2-amino-N,3,3-trimethyl-butanamide | N[C@H](C(=O)NC)C(C)(C)C | C7H16N2O
product | (S)-6-(3-Chlorophenyl)-N-(3,3-dimethyl-1-(methylamino)-1-oxobutan-2-yl)picolinamide | ClC=1C=C(C=CC1)C1=CC=CC(=N1)C(=O)N[C@H](C(=O)NC)C(C)(C)C | C19H22ClN3O2
